US09376418B2
BOP (3.07 g, 6.94 mmol) and DIEA (606 μl, 3.47 mmol) were added to a mixture of 5-bromo-2-fluoropyridine (400 mg, 2.312 mmol) and cyanoacetic acid (201 mg, 2.358 mmol) in DMF (11.6 mL). The reaction mixture was stirred at room temperature overnight, diluted with ethyl acetate and washed with water (2×). The organic layer was concentrated under reduced pressure and the residue was purified by silica gel chromatography (ethyl Acetate/hexanes) to afford N-(5-bromopyridin-2-yl)-2-cyanoacetamide. MS ESI calc'd for C8H7BrN3O [M+H]+ 240 and 242. found 240.

reactant | BOP | 6.94 mmol, 3.07 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 3.47 mmol, 606 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-bromo-2-fluoropyridine | 2.312 mmol, 400 mg | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | cyanoacetic acid | 2.358 mmol, 201 mg | C(#N)CC(=O)O | C3H3NO2
solvent | DMF | 11.6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-bromopyridin-2-yl)-2-cyanoacetamide | BrC=1C=CC(=NC1)NC(CC#N)=O | C8H6BrN3O
